US07262190B2
Step A: [1-(4-Iodophenyl)cyclopropyl]amine
7.09 ml (24.01 mmol) of Ti(OiPr)4 are added to a solution of 4-iodobenzonitrile (5.0 g, 21.83 mmol) in 140 ml of anhydrous Et2O and the reaction mixture is cooled to −65° C. To the resulting solution there are then added, dropwise, 16 ml (48.00 mmol) of a 3M solution of magnesium ethyl bromide in Et2O, and the reaction mixture is returned to ambient temperature. Stirring is continued for 1 hour at ambient temperature and 5.53 ml (43.66 mmol) of BF3.OEt2 are added. Stirring is continued for 1 hour 15 minutes at ambient temperature and 65 ml of 1N HCl are added. A two-phase suspension is obtained; 300 ml of Et2O and then 200 ml of 1N NaOH solution are added. The suspension is filtered and the filtrate is extracted twice with Et2O. The organic phases are collected, washed (water, saturated NaCl solution), dried over MgSO4 and concentrated by half. The residual solution is extracted with 1N HCl and the expected amine is precipitated as a result of making alkaline with concentrated NaOH solution.

reactant | 4-iodobenzonitrile | 21.83 mmol, 5.0 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | magnesium ethyl bromide | C(C)Br.[Mg]
reactant | BF3.OEt2 | 43.66 mmol, 5.53 ml | B(F)(F)F.CCOCC
reactant | HCl | 1N, 65 ml | Cl | ClH
reactant | NaOH | 1N, 200 ml | [OH-].[Na+]
solvent | Et2O | 140 ml | CCOCC | C4H10O
catalyst | Ti(OiPr)4 | 24.01 mmol, 7.09 ml | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | Et2O | 300 ml | CCOCC | C4H10O
product | [1-(4-Iodophenyl)cyclopropyl]amine | IC1=CC=C(C=C1)C1(CC1)N | C9H10IN
